US04626543
Bromomethyl 2-methylphenyl ketone
A solution of 13.42 g of ortho-methylacetophenone in 15 ml of acetic acid was treated with 15.98 g of bromine in 15 ml acetic acid. After being kept at ca 100° C. for 90 minutes, the mixture was poured into 300 ml water and extracted with ether. Removal of solvent from the dried (MgSO4) extract provided 19.70 g of residual oil, which by GLC was 75% pure. This crude product was used without further purification.

reactant | ortho-methylacetophenone | 13.42 g | CC1=C(C=CC=C1)C(C)=O | C9H10O
reactant | bromine | 15.98 g | BrBr | Br2
reactant | water | 300 ml | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | Bromomethyl 2-methylphenyl ketone | 19.70 g | CC1=C(C=CC=C1)C(=O)CBr | C9H9BrO
